** sch_path: /foss/designs/ECG_Acquisition_IC/Design_Files/IC Design/Testbench/FD_OTA/FDC/Open_Loop/FDC_TB_VCMFB_NOM.sch
**.subckt FDC_TB_VCMFB_NOM
IBIAS AGND B dc 40u
VAVDD AVDD 0 dc {AVDD_SET} ac 0
.save i(vavdd)
CLP OUTP AGND 40p
VVCM VCM AGND dc {VCM_SET} ac 0
VDIFF VDIFF AGND dc {VOSDC} ac 1
VAVSS AGND 0 dc {AVSS_SET} ac 0
.save i(vavss)
EINN INN VCM VDIFF AGND -0.5
EINP INP VCM VDIFF AGND 0.5
xSEOTA1 AVDD AGND INP INN OUTN B OUTP CMFB FDC
CLN OUTN AGND 40p
VCMFBBIAS CMFB AGND dc {CMFB_BIAS} ac 0
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical



.control
destroy all
save all
set wr_vecnames
set wr_singlescale
option numdgt=15

shell mkdir -p /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt

shell rm -f /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.vcmfb_sweep.txt

let avdd_run = 3.3
let vcm_run  = avdd_run/2
let vos_run  = 0

alter @VAVDD[DC] = $&avdd_run
alter @VVCM[DC]  = $&vcm_run
alter @VDIFF[DC] = $&vos_run

alter @VVCM[ACMAG]  = 0
alter @VDIFF[ACMAG] = 0
alter @VAVDD[ACMAG] = 0
alter @VAVSS[ACMAG] = 0

* VCMFB sweep
dc VCMFBBIAS 0 $&avdd_run 1e-4

let sweep_vcmfb  = v(cmfb)-v(agnd)
let sweep_voutp  = v(outp)-v(agnd)
let sweep_voutn  = v(outn)-v(agnd)
let sweep_voutcm = (sweep_voutp+sweep_voutn)/2
let sweep_vod    = sweep_voutp-sweep_voutn

setscale sweep_vcmfb

wrdata /foss/designs/ECG_Acquisition_IC/Measurement_Results/IC_Simulation/FD_OTA/FDC/NOM.Result_txt/NOM.vcmfb_sweep.txt sweep_voutp sweep_voutn sweep_voutcm sweep_vod

quit
.endc




.param AVDD_SET=3.3
.param AVSS_SET=0
.param TEMP_SET=27
.param VCM_SET={AVDD_SET/2}

.param VOSDC=0
.param CMFB_BIAS={VCM_SET}

.temp {TEMP_SET}

.options gmin=1e-12 rshunt=1e12 method=gear
.nodeset v(B)=2.3 v(CMFB)={CMFB_BIAS} v(OUTP)={VCM_SET} v(OUTN)={VCM_SET}


**** end user architecture code
**.ends

* expanding   symbol:  ECG_Acquisition_IC/Design_Files/IC Design/Schematic/FD_OTA/FDC/FDC.sym # of pins=8
** sym_path: /foss/designs/ECG_Acquisition_IC/Design_Files/IC Design/Schematic/FD_OTA/FDC/FDC.sym
** sch_path: /foss/designs/ECG_Acquisition_IC/Design_Files/IC Design/Schematic/FD_OTA/FDC/FDC.sch
.subckt FDC FDC_DD FDC_SS FDC_INP FDC_INN FDC_OUTN FDC_B FDC_OUTP FDC_CMFB
*.iopin FDC_DD
*.iopin FDC_SS
*.ipin FDC_INP
*.ipin FDC_INN
*.opin FDC_OUTP
*.iopin FDC_B
*.opin FDC_OUTN
*.iopin FDC_CMFB
XM3 net4 FDC_CMFB FDC_DD FDC_DD pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM8 FDC_OUTP FDC_B FDC_SS FDC_SS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=100
Rz net1 net2 3.5k
XM5 net3 FDC_B FDC_SS FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=10
XM6 FDC_OUTP net1 FDC_DD FDC_DD pfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM10 FDC_B FDC_B FDC_SS FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=20
Cc net2 FDC_OUTP 2.5p
XM9 FDC_OUTN FDC_B FDC_SS FDC_SS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=100
Rz1 net4 net5 3.5k
XM7 FDC_OUTN net4 FDC_DD FDC_DD pfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
Cc1 net5 FDC_OUTN 2.5p
XM4 net1 FDC_CMFB FDC_DD FDC_DD pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM1 net4 FDC_INN net3 FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
XM2 net1 FDC_INP net3 FDC_SS nfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=200
.ends

.GLOBAL AVDD
.end
